* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  9 17:54:48 2023
* Design path:          /home/vlsi/Desktop/Karim_Project_Nand22/lib.defs
* Library:              Karim_Project
* Cell:                 Half_Adder
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt xor_gate A B Out Gnd Vdd 
* Library name: Karim_Project
* Cell name: xor_gate
* View name: schematic
* PORT=B TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Out TYPE=Out
* PORT=Gnd TYPE=Other
* PORT=A TYPE=In

MM7n Out N4 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=7600 $y=3900 $w=400 $h=600
MM8n N4 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2100 $y=2600 $w=400 $h=600
MM9n N4 A Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3700 $y=2600 $w=400 $h=600 $m
MM10n Out B N5 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5700 $y=2600 $w=400 $h=600 $m
MM11n N5 A Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5300 $y=1800 $w=400 $h=600
MM1p N1 A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=3100 $y=4800 $w=400 $h=600 $m
MM2p N2 A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=4800 $w=400 $h=600
MM3p N4 B N1 Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=2700 $y=3900 $w=400 $h=600
MM4p N3 B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=6400 $y=4800 $w=400 $h=600 $m
MM5p Out N4 N2 Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3900 $w=400 $h=600
MM6p Out N4 N3 Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=6400 $y=3900 $w=400 $h=600 $m
.ends

.subckt And A B Out Gnd Vdd 
* Library name: Karim_Project
* Cell name: And
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=A TYPE=In
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In

MM1n N1 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=3400 $w=400 $h=600
MM1n1 Out N_1 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=3500 $w=400 $h=600
MM2n N_1 A N1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=4200 $w=400 $h=600
MM2p Out N_1 Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=4500 $w=400 $h=600
MM3p N_1 A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=1300 $y=5000 $w=400 $h=600
MM4p N_1 B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=2500 $y=5000 $w=400 $h=600
.ends

.subckt Half_Adder A B Carry Sum Gnd Vdd 
* Library name: Karim_Project
* Cell name: Half_Adder
* View name: schematic
* PORT=B TYPE=In
* PORT=Sum TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Carry TYPE=Out
* PORT=A TYPE=In

XAnd_1 A B Carry Gnd Vdd And $ $x=2400 $y=3000 $w=1800 $h=1000
Xxor_gate_1 A B Sum Gnd Vdd xor_gate $ $x=2700 $y=4200 $w=1800 $h=1000
.ends



