* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sun Dec  3 18:59:33 2023
* Design path:          /home/vlsi/Desktop/Karim_Project_Nand/lib.defs
* Library:              Karim_Project
* Cell:                 Ripple_Adder_Nand
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt NAND2 A B Z inh_vdd inh_vss 
* Library name: Generic_250nm_LogicGates
* Cell name: NAND2
* View name: schematic
* PORT=A TYPE=In
* PORT=[@vss:%:vss!] TYPE=Virtual
* PORT=Z TYPE=Out
* PORT=B TYPE=In
* PORT=[@vdd:%:vdd!] TYPE=Virtual

* Design: Generic_250nm_LogicGates / Cell: NAND2 / View: schematic / Page: Page0
* Designed by: Tanner EDA Library Development Team
* Organization: Tanner EDA - Mentor Graphics
* Info: 2 Input NAND with complementary output.
* Date: Sat Nov 16 01:50:29 2019
* Revision: 1 $ $x=7600 $y=600 $w=3600 $h=1200
MM1n N1 B inh_vss inh_vss NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=2800 $w=400 $h=600
MM2n Z A N1 inh_vss NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=3600 $w=400 $h=600
MM3p Z A inh_vdd inh_vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=4400 $w=400 $h=600
MM4p Z B inh_vdd inh_vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4700 $y=4400 $w=400 $h=600
.ends

.subckt FullAdder_NAND A B CIn Cout Sum inh_vdd inh_vss 
* Library name: Karim_Project
* Cell name: FullAdder_NAND
* View name: schematic
* PORT=[@vss:%:vss!] TYPE=Virtual
* PORT=B TYPE=In
* PORT=[@vdd:%:vdd!] TYPE=Virtual
* PORT=Sum TYPE=Out
* PORT=Cout TYPE=Out
* PORT=A TYPE=In
* PORT=CIn TYPE=In

XX1 A B N_1 inh_vdd inh_vss NAND2 $ $x=2300 $y=5500 $w=1000 $h=500
XX2 A N_1 N_2 inh_vdd inh_vss NAND2 $ $x=4000 $y=6100 $w=1000 $h=500
XX3 N_1 B N_3 inh_vdd inh_vss NAND2 $ $x=4000 $y=4500 $w=1000 $h=500
XX4 N_2 N_3 N_4 inh_vdd inh_vss NAND2 $ $x=5700 $y=5400 $w=1000 $h=500
XX5 N_4 CIn N_5 inh_vdd inh_vss NAND2 $ $x=8200 $y=5300 $w=1000 $h=500
XX6 N_4 N_5 N_7 inh_vdd inh_vss NAND2 $ $x=10400 $y=6300 $w=1000 $h=500
XX7 N_5 CIn N_9 inh_vdd inh_vss NAND2 $ $x=10400 $y=4600 $w=1000 $h=500
XX8 N_4 CIn N_6 inh_vdd inh_vss NAND2 $ $x=7500 $y=3500 $w=1000 $h=500
XX9 A B N_8 inh_vdd inh_vss NAND2 $ $x=5100 $y=1700 $w=1000 $h=500
XX10 N_6 N_8 Cout inh_vdd inh_vss NAND2 $ $x=10400 $y=2600 $w=1000 $h=500
XX11 N_7 N_9 Sum inh_vdd inh_vss NAND2 $ $x=12500 $y=5400 $w=1000 $h=500
.ends

.subckt Ripple_Adder_Nand A0 A1 A2 A3 B0 B1 B2 B3 CIn Cout Sum0 Sum1 Sum2 Sum3 Gnd Vdd vdd! vss! 
* Library name: Karim_Project
* Cell name: Ripple_Adder_Nand
* View name: schematic
* PORT=A0 TYPE=In
* PORT=Sum1 TYPE=Out
* PORT=A2 TYPE=In
* PORT=B2 TYPE=In
* PORT=Gnd TYPE=Other
* PORT=vss! TYPE=Other
* PORT=vdd! TYPE=Other
* PORT=B0 TYPE=In
* PORT=Sum3 TYPE=Out
* PORT=A3 TYPE=In
* PORT=Cout TYPE=Out
* PORT=CIn TYPE=In
* PORT=Sum2 TYPE=Out
* PORT=Sum0 TYPE=Out
* PORT=B1 TYPE=In
* PORT=B3 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=A1 TYPE=In

XFullAdder_NAND_1 B0 A0 CIn N_1 Sum0 vdd! vss! FullAdder_NAND $ $x=7700 $y=4600 $w=1800 $h=1800
XFullAdder_NAND_2 B1 A1 N_1 N_2 Sum1 vdd! vss! FullAdder_NAND $ $x=5400 $y=4600 $w=1800 $h=1800
XFullAdder_NAND_3 B2 A2 N_2 N_3 Sum2 vdd! vss! FullAdder_NAND $ $x=3400 $y=4600 $w=1800 $h=1800
XFullAdder_NAND_4 B3 A3 N_3 Cout Sum3 vdd! vss! FullAdder_NAND $ $x=1400 $y=4600 $w=1800 $h=1800
VV2 Vdd Gnd DC 5 $ $x=200 $y=900 $w=400 $h=600
VV1 CIn Gnd  BIT({00} RT=0 FT=0 ) $ $x=1300 $y=1000 $w=400 $h=600
VV3 B3 Gnd  BIT({11} RT=0 FT=0 ) $ $x=2200 $y=1000 $w=400 $h=600
VV4 A2 Gnd  BIT({10} RT=0 FT=0 ) $ $x=8000 $y=1000 $w=400 $h=600
VV5 B2 Gnd  BIT({10} RT=0 FT=0 ) $ $x=3200 $y=1100 $w=400 $h=600
VV6 A3 Gnd  BIT({10} RT=0 FT=0 ) $ $x=6800 $y=800 $w=400 $h=600
VV7 B1 Gnd  BIT({01} RT=0 FT=0 ) $ $x=4200 $y=1100 $w=400 $h=600
VV8 A1 Gnd  BIT({01} RT=0 FT=0 ) $ $x=9000 $y=1100 $w=400 $h=600
VV9 B0 Gnd  BIT({10} RT=0 FT=0 ) $ $x=5200 $y=900 $w=400 $h=600
VV10 A0 Gnd  BIT({10} RT=0 FT=0 ) $ $x=10000 $y=1400 $w=400 $h=600
.ends



