* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  9 17:24:24 2023
* Design path:          /home/vlsi/Desktop/Karim_Project_Nand22/lib.defs
* Library:              Karim_Project
* Cell:                 test_full_adder_nand
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt Nand_gate_2_inputs A B Z Gnd Vdd 
* Library name: Karim_Project
* Cell name: Nand_gate_2_inputs
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=Vdd TYPE=Other
* PORT=B TYPE=In
* PORT=Z TYPE=Out
* PORT=A TYPE=In

MM1n N1 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=2600 $w=400 $h=600
MM2n Z A N1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=3400 $w=400 $h=600
MM3p Z A Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=2600 $y=4200 $w=400 $h=600
MM4p Z B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=3800 $y=4200 $w=400 $h=600
.ends

.subckt test_full_adder_nand A B CIn Cout Sum Gnd Vdd 
* Library name: Karim_Project
* Cell name: test_full_adder_nand
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Cout TYPE=Out
* PORT=CIn TYPE=In
* PORT=Sum TYPE=Out
* PORT=A TYPE=In
* PORT=B TYPE=In

XNand_gate_2_inputs_1 A B N_1 Gnd Vdd Nand_gate_2_inputs $ $x=1700 $y=5300 $w=1800 $h=1000
XNand_gate_2_inputs_2 A N_1 N_2 Gnd Vdd Nand_gate_2_inputs $ $x=3600 $y=5700 $w=1800 $h=1000
XNand_gate_2_inputs_3 N_1 B N_3 Gnd Vdd Nand_gate_2_inputs $ $x=2900 $y=4400 $w=1800 $h=1000
XNand_gate_2_inputs_4 N_2 N_3 N_4 Gnd Vdd Nand_gate_2_inputs $ $x=5300 $y=5200 $w=1800 $h=1000
XNand_gate_2_inputs_5 N_4 CIn N_5 Gnd Vdd Nand_gate_2_inputs $ $x=8200 $y=5300 $w=1800 $h=1000
XNand_gate_2_inputs_6 N_4 N_5 N_6 Gnd Vdd Nand_gate_2_inputs $ $x=10500 $y=6300 $w=1800 $h=1000
XNand_gate_2_inputs_7 N_5 CIn N_7 Gnd Vdd Nand_gate_2_inputs $ $x=10500 $y=4600 $w=1800 $h=1000
XNand_gate_2_inputs_8 N_6 N_7 Sum Gnd Vdd Nand_gate_2_inputs $ $x=12800 $y=5400 $w=1800 $h=1000
XNand_gate_2_inputs_9 N_4 CIn N_8 Gnd Vdd Nand_gate_2_inputs $ $x=7800 $y=2700 $w=1800 $h=1000
XNand_gate_2_inputs_10 A B N_9 Gnd Vdd Nand_gate_2_inputs $ $x=5200 $y=1700 $w=1800 $h=1000
XNand_gate_2_inputs_11 N_8 N_9 Cout Gnd Vdd Nand_gate_2_inputs $ $x=10400 $y=2900 $w=1800 $h=1000
.ends



